US08975256B2
7-(5-Carboxy-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 10-1)
8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-5-methoxycarbonylphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 6-37, 50.5 mg, 0.103 mmol) was dissolved in mixed solvent of tetrahydrofuran (1 mL) and methanol (1 mL), and 4N aqueous sodium hydroxide solution (0.5 mL) was added thereto and stirred at room temperature overnight. Ethyl acetate (15 mL) and 0.25N aqueous HCl solution (20 mL) were added to the reaction mixture and partitioned. The organic layer was washed with saturated brine (15 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate). The obtained materials were filtered with chloroform (3 mL) to give the titled compound (20.3 mg) as a pale yellow solid. (Yield 42%)

reactant | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-5-methoxycarbonylphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=CC(=C2)C(=O)OC)OC)C1)C | C28H29FN2O5
reactant | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | 0.25N, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | sodium hydroxide | 4N, 0.5 mL | [OH-].[Na+]
product | 7-(5-Carboxy-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 20.3 mg, Yield 42% | C(=O)(O)C=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C)OC | C27H27FN2O5
